US05143914
3-BROMOPHENYLBORONIC ACID
N-Butyllithium (2.5M; 44 mL; 0.11M) was added dropwise over 15 mins. to a vigorously stirred solution of m-dibromobenzene (25 g; 0.106M) in 500 mL of anhydrous ether at -78° under nitrogen. After stirring 10 mins. more, a solution of triisopropylborate (25.3 mL; 0.11M) in anhydrous ether (200 mL) was added over 20 mins. The cooling bath was then removed, and the stirring solution was allowed to warm to R.T. over ~2 hrs. A small amount of solid separated. After stirring 15 mins. more at R.T., 150 mL of ice cold 8% aqueous hydrochloric acid was cautiously added, and the stirring was continued for 15 mins. The organic phase was separated, washed with 2×100 mL of saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. Solvent removal gave ~30 G of crude product as a semi-solid, which was shaken well with 150 mL of hexane. The solid was filtered and washed with 2×25 mL of hexane. The resulting silky solid (mp 178°-9° C. after softening at ~ 160° C.) (6.5 g) was used as 3-bromophenylboronic acid with a small amount of contamination. The hexane filtrate was concentrated and the residue was stirred well with 150 mL of petroleum ether (30°-60°). The resulting solid was filtered and washed with 2×25 mL of petroleum ether. This resulting solid (4.4 g) melting at 178.3°-179° C. was the desired 3-bromophenylboronic acid.

reactant | N-Butyllithium | 2.5M, 44 mL | [Li+].CCC[CH2-]
reactant | m-dibromobenzene | 0.106M, 25 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | triisopropylborate | 0.11M, 25.3 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hexane | 150 mL | CCCCCC | C6H14
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-BROMOPHENYLBORONIC ACID | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
